US08022223B2
Step A: 3-phenoxypyridin-2-amine:
Prepared according to the method of Example 7 Step A, starting with bromopyridin-2-amine, phenol, and (E)-2-hydroxybenzaldehyde oxime (20.61 g, 150.3 mmol).

reactant | bromopyridin-2-amine | BrC=1C(=NC=CC1)N | C5H5BrN2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | (E)-2-hydroxybenzaldehyde oxime | 150.3 mmol, 20.61 g | OC1=C(/C=N/O)C=CC=C1 | C7H7NO2
product | 3-phenoxypyridin-2-amine | O(C1=CC=CC=C1)C=1C(=NC=CC1)N | C11H10N2O
